US07989442B2
h. (−)-(cis)-7-bromo-8-fluoro-1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-amine
1M NaOH (580 ml, 580 mmol) was added to a solution of (−)-(cis)-7-bromo-8-fluoro-1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-amine (4S)-2-hydroxy-5,5-dimethyl-4-phenyl-1,3,2-dioxaphosphorinane 2-oxide (1:1) (45,42 g 75 mmol) in 1L of ethanol:CH2Cl2 (1:9), and the resulting biphasic mixture was vigorously stirred at ambient temperature for 0.5 h. The aqueous layer was extracted with CH2Cl2 (400 mL) and the combined organic layers were washed with 0.4M NaOH, dried (Na2SO4) and evaporated under reduced pressure to yield the title compound (27.2 g, 100%). 1H-NMR (400 MHz, CDCl3) 1.40-1.51 (m, 1H), 1.69-1.89 (m, 2H), 2.14-2.22 (m, 1H), 3,11-3.29 (m, 1H), 3.38-3.45 (m, 1H), 3.68-3.76 (m, 2H), 6.87-6.90 (d, J=8.0, 1H), 7.03-7.30 (m, 5H). 19F-NMR (400 MHz, CDCl3) −118.27. (m/z)=363+365 (M+H)+. (e.e. =99.9%) (chiralpak AD-H 25*0.46 cm, heptane:ethanol=8:2). (m/z)=363+365 (M+H)+. [α]D20.5=−202° (c=1.0, CHCl3)

reactant | NaOH | 580 mmol, 1M, 580 ml | [OH-].[Na+]
reactant | (−)-(cis)-7-bromo-8-fluoro-1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-amine (4S)-2-hydroxy-5,5-dimethyl-4-phenyl-1,3,2-dioxaphosphorinane 2-oxide | 75 mmol, 45,42 g | OP1(OCC([C@@H](O1)C1=CC=CC=C1)(C)C)=O.BrC1=CC2=C(OC3=C([C@@H]4N2CCC[C@H]4N)C=CC=C3)C=C1F
solvent | ethanol CH2Cl2 | C(C)O.C(Cl)Cl
product | (−)-(cis)-7-bromo-8-fluoro-1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-amine | 27.2 g, 100% | BrC1=CC2=C(OC3=C([C@@H]4N2CCC[C@H]4N)C=CC=C3)C=C1F | C17H16BrFN2O
